US08252806B2
Cyclohexyl-[2-(3-methyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A17)
Was prepared according to Method A from 2,4-dichloroquinazoline, cyclohexylamine and 3-methylpyrazole. Mp. 269-274.3° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 3-methylpyrazole | CC1=NNC=C1 | C4H6N2
product | Cyclohexyl-[2-(3-methyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C1(CCCCC1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1)C | InChI=1S/C18H21N5.ClH/c1-13-11-12-23(22-13)18-20-16-10-6-5-9-15(16)17(21-18)19-14-7-3-2-4-8-14;/h5-6,9-12,14H,2-4,7-8H2,1H3,(H,19,20,21);1H
